US07129268B2
{4-[3,3-Bis-(4-chloro-phenyl)-allyloxy]-phenoxy}-acetic acid
A solution of {4-[3,3-bis-(4-chloro-phenyl)-allyloxy]-phenoxy}-acetic acid ethyl ester (140 mg, 0.3 mmol) in 1N NaOH (1 ml) and ethanol (10 ml) was stirred at room temperature for 18 hours. The reaxtion mixture was evaporated and the residue dissolved in water (5 ml) and 1 N HCl (1.2 ml). The aquous phase was extracted with ethyl acetate (3×15 ml), dried (MgSO4) and evaporated to give the title compound in 130 mg (99%) yield.

reactant | {4-[3,3-bis-(4-chloro-phenyl)-allyloxy]-phenoxy}-acetic acid ethyl ester | 0.3 mmol, 140 mg | C(C)OC(COC1=CC=C(C=C1)OCC=C(C1=CC=C(C=C1)Cl)C1=CC=C(C=C1)Cl)=O | C25H22Cl2O4
solvent | NaOH | 1N, 1 ml | [OH-].[Na+]
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | {4-[3,3-Bis-(4-chloro-phenyl)-allyloxy]-phenoxy}-acetic acid | ClC1=CC=C(C=C1)C(=CCOC1=CC=C(OCC(=O)O)C=C1)C1=CC=C(C=C1)Cl | C23H18Cl2O4
